US05958967
(2-Hydroxy-5-methoxyphenyl)-(4-hydroxyphenyl)-methanone
Palladium on carbon catalyst (10%, 1.0 g, 0.94 mmol) was added to a stirred ethanol (500 ml) solution of (4-benzyloxyphenyl)-(2,5-dimethoxyphenyl)-methanone (10.86 g, 31.2 mmol) and the suspension hydrogenated for 18 h. The catalyst was removed by filtration, and the solvent evaporated to give an orange coloured gum. This was dissolved in glacial acetic acid (16 ml), hydrogen bromide (33% w/w in acetic acid, 8.20 ml, 46.76 mmol) added, and the resulting mixture heated to 70° C. for 18 h. The mixture was diluted with water (25 ml) and the product extracted into ethyl acetate (3×25 ml). The combined extracts were washed with brine, dried over magnesium sulfate and evaporated to a yellow gum, which was purified by column chromatography on silica gel 60, with 7:3 petrol/ethyl acetate as eluent. This gave a yellow gum, which was dissolved in a minimum of ether and precipitated by adding petrol, to give the title product as a yellow powder.

reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | (4-benzyloxyphenyl)-(2,5-dimethoxyphenyl)-methanone | 31.2 mmol, 10.86 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)OC | C22H20O4
reactant | hydrogen bromide | 46.76 mmol, 8.20 ml | Br | BrH
catalyst | Palladium on carbon | 0.94 mmol, 1.0 g | [Pd] | Pd
solvent | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
solvent | water | 25 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | (2-Hydroxy-5-methoxyphenyl)-(4-hydroxyphenyl)-methanone | OC1=C(C=C(C=C1)OC)C(=O)C1=CC=C(C=C1)O | C14H12O4
